Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall, Intraparenchymal hemorrhage, and orbital wall blow out
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is an ___ year old woman on ASA with a past medical 
history significant for dementia and HTN who was found down by 
her son this morning s/p fall of unclear etiology, thought to 
have had a mechanical fall in her basement, with large IPH on 
imaging as well as swollen left eye found to have orbital floor 
blow out fracture without signs of entrapment. 

Per her son, she lives alone and is unsteady on her feet with 
multiple recent falls. Per her daughter they had been 
considering assisted living options secondary to her 
deteriorating functional status. 

After being found down this morning, she was initially brought 
to an OSH ED where she had a c-spine CT as well as head CT 
showing the IPH and was then transferred to ___ ED. In the ED, 
she was oriented x1 which is reportedly worse than baseline 
where she is oriented to herself and family, however not to 
month/date. 

She was evaluated by plastic surgery who felt that her orbital 
floor fracture was non-operable. She was also noted to have a 
swollen right knee and x-rays were ordered. Her ED course was 
notable for a troponin elevation to 0.23 and cardiology was 
consulted, who reportedly felt that this was demand mediated 
only without STEMI/NSTEMI.  

She was keppra loaded for seizure prophylaxis and admitted to 
the TSICU. On the way to the TSICU, a repeat head CT was 
performed to evaluate for interval change/expansion of the IPH. 

 
Past Medical History:
Dementia, HTN, HLD, Skin graft at burn site on RLE above knee 
many years ago 
 
Social History:
___
Family History:
NC
 
Physical Exam:
Physical Exam On Admission

General:  frail appearing, mumbling to self
HEENT: large ecchymoses around left eye, forehead laceration
Neck:  supple 
CV:  regular rate and rhythm 
Lungs:  CTAB
Abdomen: soft, non-tender, non-distended  
GU:  Foley in place
Ext:  R knee mildly edematous 
Neuro:  oriented x0, intermittently follows commands, moving all 
four extremities 
Skin:  multiple ecchymoses 

Physical Exam on Discharge: 

DECEASED:
Gen: lying in bed, eyes closed
CV: no chest rise, no heart sounds 
Pulm: patient not breathing
Abd: Soft, nondistended
Neuro: no response to noxious stimuli, no corneal reflex
 
Pertinent Results:
LABS ON ADMISSION:

___ 01:12PM BLOOD WBC-11.7*# RBC-3.52*# Hgb-11.1*# 
Hct-33.0* MCV-94# MCH-31.5 MCHC-33.6 RDW-11.5 RDWSD-38.9 Plt 
___
___ 01:12PM BLOOD Neuts-83.1* Lymphs-6.3* Monos-9.8 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-9.69* AbsLymp-0.73* 
AbsMono-1.14* AbsEos-0.00* AbsBaso-0.02
___ 01:12PM BLOOD ___ PTT-24.6* ___
___ 02:27PM BLOOD ___
___ 01:12PM BLOOD Glucose-141* UreaN-21* Creat-0.8 Na-137 
K-3.8 Cl-96 HCO3-26 AnGap-19
___ 01:12PM BLOOD ALT-16 AST-25 CK(CPK)-153 AlkPhos-62 
TotBili-1.0
___ 01:12PM BLOOD CK-MB-9 MB Indx-5.9
___ 01:12PM BLOOD Albumin-4.3
___ 07:45PM BLOOD Calcium-9.6 Phos-3.2 Mg-2.0
___ 07:53PM BLOOD ___ pO2-138* pCO2-40 pH-7.42 
calTCO2-27 Base XS-1
___ 01:17PM BLOOD Lactate-1.5
___ 07:53PM BLOOD freeCa-1.10*

MICROBIOLOGY:

___ 6:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ___ MD (___) REQUESTS SUSCEPTBILITY TESTING 
___. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE, PRESUMPTIVELY NOT S.
         SAPROPHYTICUS.    >100,000 CFU/mL. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE, 
PRESUMPTIVELY
                             |   
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
NITROFURANTOIN--------  <=16 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------     2 S
VANCOMYCIN------------     1 S

IMAGING AND OTHER STUDIES:

___ HEAD W/O CONTRAST

IMPRESSION: 
 
1.  Stable large left frontal lobe intraparenchymal hemorrhage, 
however since
the initial CT examination, the amount of surrounding edema has 
increased.
2.  Stable mass effect and effacement of the frontal horn of the 
left lateral
ventricle.  No substantial midline shift.
3.  Stable scattered bilateral subarachnoid hemorrhage,  
intraventricular
hemorrhage and right frontal parietal subdural hematoma.
4.  Stable high density material in the left maxillary, ethmoid 
air cells and
sphenoid sinuses.
     
___ HEAD W/O CONTRAST 

IMPRESSION:
 
 
1. Stable large left frontal lobe intraparenchymal hemorrhage 
with surrounding
edema, mass effect and effacement of the left frontal lobe.
2. Stable scattered bilateral frontal and parietal lobe 
subarachnoid
hemorrhages.
3. Stable intraventricular bilateral hemorrhage within the 
occipital horns of
the lateral ventricles and left septum pellucidum.
4. Stable posterior parafalcine and tentorial subdural 
hemorrhage.
5. Stable high density left maxillary and bilateral sphenoid 
sinus
opacification.    
    
___ HEAD W/O CONTRAST 

IMPRESSION:
 
 
1. Interval increase in size of large left frontal lobe 
intraparenchymal
hematoma with increasing surrounding vasogenic edema.  Mild 
regional mass
effect includes left frontal sulcal effacement and mild 
effacement of the
frontal horn of the left lateral ventricle, as well as minimally 
increased 5
mm rightward shift of normally midline structures.  Patent basal 
cisterns.
2. Additional areas of multi compartment acute intracranial 
hemorrhage
including interventricular, subarachnoid, and subdural 
components, are not
appreciably changed, as delineated above.
3. Chronic findings include age-appropriate global atrophy and 
vascular
calcifications.
4. Left facial fractures better seen on prior CT scan.
 
___ (AP, LAT & OBLIQUE)

IMPRESSION:
 
1. Heterogeneous radiodensities about the right knee likely 
reflects severe
chondrocalcinosis and sequelae of gouty arthritis.
2. Moderate medial lateral compartment osteoarthritis.
3. Likely small knee effusion.
 
Brief Hospital Course:
___ yo F found down by her son ___ s/p fall.  In the hospital 
she was found to have a large intraparenchymal hemorrhage and 
orbital blow out fracture to her left eye. Neurosurgery did not 
believe intervention would help and ophthalmology recommended no 
immediate intervention. Her condition was poor from the outset 
and she did not eat after being admitted to the hospital. 
Intially she was intermittently following very simple commands. 
She was monitored on the TSICU where her condition declined to a 
stuporus state. She was evaluted by neurology who gave a very 
poor prognosis that would only minimally improve with months of 
artificial nutrition and hydration. This was against the 
patients stated wishes to the family. Artificial nutrition and 
hydration were stopped and she was moved to ___ care 
in discussion with the family. On ___, MD was notified that the 
patient was not breathing and that she had passed, pronounced 
dead at 9:15 AM.

# Fall with Intraparenchymal hemorrhage and orbital floor 
fracture: found down by her son ___ s/p fall.  In the hospital 
she was found to have a large intraparenchymal hemorrhage and 
orbital blow out fracture to her left eye. Neurosurgery did not 
believe intervention would help and ophthalmology recommended no 
immediate intervention. She was started on Keppra for seizure 
ppx. Her condition was poor from the outset and she did not eat 
after being admitted to the hospital. Intially she was 
intermittently following very simple commands. She was monitored 
on the TSICU where her condition declined to a stuporus state. 
She was evaluted by neurology who gave a very poor prognosis 
that would only minimally improve with months of artificial 
nutrition and hydration. This was against the patients stated 
wishes to the family. Artificial nutrition and hydration were 
stopped and she was moved to ___ in discussion 
with the family. On ___, MD was notified that the patient was 
not breathing and that she had passed, pronounced dead at 9:15 
AM.

#Anemia: initial labs showed stable H/H, labs were not checked 
after patient moved to ___. 

#HTN: lisinopril held after patient moved to ___

#Dementia: Per son, patient had been declining for several years 
with dementia, but was living independently at home prior to 
fall.  

TRANSITIONAL ISSUES
===================
Deceased
 
Medications on Admission:
lisinopril 20 mg tablet daily
aspirin 81 mg daily
Centrum Silver 400 mcg-250 mcg daily
Fish Oil 100 mg-160 mg-1,000 mg Daily 
lorazepam 1 mg Daily 
lorazepam 0.5 mg daily 
atorvastatin 10 mg tablet Daily
Vitamin D3 1,000 unit capsule oral 
 
Discharge Medications:
N/A, Patient deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Primary diagnosis
- Intraparenchymal hemorrhage
- Orbital floor fracture
- ___ aquired delirium
Secondary Diagnosis
- Dementia

 
Discharge Condition:
Deceased
 
Discharge Instructions:
N/A, Patient deceased
 
Followup Instructions:
___